US04150135
F. N-Methyl-4a-phenyl-cis-decahydroisoquinoline
N-Methyl-4a-phenyl-1,3-diketo-cis-decahydroisoquinoline (1.9 g) in 75 ml of anhydrous tetrahydrofuran was treated with lithium aluminum hydride (2.0 g) and refluxed overnight. The reaction was quenched by the successive addition of 2.0 ml of water, 2.0 ml of 15% sodium hydroxide and finally 6.0 ml of water. The inorganic salts were filtered and washed well with ether. The combined filtrates were evaporated to yield 1.6 g of an oil which was evaporatively distilled, bp 125° (0.05 mm), nD20 1.5514, and identified as N-methyl-4a-phenyl-cis-decahydroisoquinoline.

reactant | N-Methyl-4a-phenyl-1,3-diketo-cis-decahydroisoquinoline | 1.9 g | CN1C([C@H]2CCCC[C@]2(CC1=O)C1=CC=CC=C1)=O | C16H19NO2
reactant | lithium aluminum hydride | 2.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | N-Methyl-4a-phenyl-cis-decahydroisoquinoline | 1.6 g | CN1C[C@H]2CCCC[C@]2(CC1)C1=CC=CC=C1 | C16H23N
